US07129232B2
To a suspension of 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-{3-amino-4-[N-(3-aminopropyl)-N-formylamino]-2-methyl-1-pyrazolio}methyl-3-cephem-4-carboxylate (140 mg) in methanol (2.6 ml) was added concentrated hydrochloric acid (0.176 ml) at room temperature, and the mixture was stirred for 6.5 hours. To the reaction mixture was added sodium hydrogen carbonate (177 mg), and the mixture was purified by preparative HPLC (ODS column, acetonitrile/phosphate buffer (pH 7)=5:95). The eluate containing a desired product was evaporated to remove acetonitrile, acidified with diluted hydrochloric acid and chromatographed on Diaion® HP-20 eluting with 20% aqueous 2-propanol. The eluate was concentrated under reduced pressure and lyophilized to give 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-{3-amino-4-[(3-aminopropyl)amino]-2-methyl-1-pyrazolio}methyl-3-cephem-4-carboxylate (39 mg).

reactant | 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-{3-amino-4-[N-(3-aminopropyl)-N-formylamino]-2-methyl-1-pyrazolio}methyl-3-cephem-4-carboxylate | 140 mg | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=C(C2)N(C=O)CCCN)N)C)C(=O)[O-])C1=O)=N/OC(C)(C)C(=O)O | C24H31N11O8S2
reactant | hydrochloric acid | 0.176 ml | Cl | ClH
reactant | sodium hydrogen carbonate | 177 mg | C(O)([O-])=O.[Na+]
solvent | methanol | 2.6 ml | CO | CH4O
product | 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-{3-amino-4-[(3-aminopropyl)amino]-2-methyl-1-pyrazolio}methyl-3-cephem-4-carboxylate | 39 mg | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=C(C2)NCCCN)N)C)C(=O)[O-])C1=O)=N/OC(C)(C)C(=O)O | C23H31N11O7S2
